US06239151B1
A solution of 0.656 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-2′-(N-tert.-butoxycarbonyl-D-prolyl)-4-methylvalerohydrazide in 8 ml of dioxan was treated with 4 ml of 4M hydrogen chloride in dioxan. The mixture was stirred for 2 hours at room temperature and diluted with diethyl ether. The solid was filtered off, washed with diethyl ether and dried to give 0.367 g of (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-2′-(D-prolyl)-4-methylvalerohydrazide hydrochloride in the form of a white solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-2′-(N-tert.-butoxycarbonyl-D-prolyl)-4-methylvalerohydrazide | 0.656 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C([C@@H]1N(CCC1)C(=O)OC(C)(C)C)=O)CC(C)C)CC(C)C | C36H56N4O7
reactant | hydrogen chloride | 4M, 4 ml | Cl | ClH
solvent | dioxan | 8 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-2′-(D-prolyl)-4-methylvalerohydrazide hydrochloride | 0.367 g | Cl.ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C([C@@H]1NCCC1)=O)CC(C)C)CC(C)C | InChI=1S/C26H40N4O4.ClH/c1-18(2)16-22(21(25(32)29-34)13-8-12-20-10-6-5-7-11-20)24(31)28-30(17-19(3)4)26(33)23-14-9-15-27-23;/h5-8,10-12,18-19,21-23,27,34H,9,13-17H2,1-4H3,(H,28,31)(H,29,32);1H/b12-8+;/t21-,22+,23+;/m0./s1
